US09085577B2
4-(4-Bromo-2-fluoro-phenoxy)-2-methyl-pyridine 1-oxide (D25)
To a solution of 4-bromo-2-fluorophenol (3.44 ml, 31.41 mmol) in N-methylpyrrolidone (20 ml) at r.t., was added sodium hydride (1.34 g, 56 mmol, 60% in mineral oil) portionwise. After stirring for 20 min, 4-nitro-2-picoline N-oxide (5.6 g, 36.12 mmol) was added. The reaction mixture was heated at 180° C. for 60 min. under microwave irradiation. After cooling to r.t. the mixture was diluted with EtOAc (250 ml), washed with water (250 ml) and then extracted with additional EtOAc (2×150 ml). The combined organic extracts were dried (Na2SO4) and the solvent evaporated in vacuo. The crude product was purified by column chromatography (silica gel; DCM/7M solution of NH3 in MeOH up to 2% as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate compound D25 (4.36 g, 47%).

reactant | 4-bromo-2-fluorophenol | 31.41 mmol, 3.44 ml | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | sodium hydride | 56 mmol, 1.34 g | [H-].[Na+]
reactant | 4-nitro-2-picoline N-oxide | 36.12 mmol, 5.6 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C | C6H6N2O3
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
product | 4-(4-Bromo-2-fluoro-phenoxy)-2-methyl-pyridine 1-oxide | BrC1=CC(=C(OC2=CC(=[N+](C=C2)[O-])C)C=C1)F | C12H9BrFNO2
